US04954518
In 20 ml of pyridine was dissolved 4.81 g of 3,3-dibromo-2,3-dihydro-7-methylsulfonylamino-6phenoxy-4H-1-benzopyran-4-one. The solution was refluxed for 20 minutes. The reaction mixture was introduced into 200 ml of water. The mixture was adjusted to pH 4 with concentrated hydrochloric acid and then extracted with two 100-ml portions of ethyl acetate. The extracts (the organic layers) were combined, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from acetonitrile to obtain 3.30 g (yield: 82%) of 3-bromo-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 215°-216° C.

reactant | 3,3-dibromo-2,3-dihydro-7-methylsulfonylamino-6phenoxy-4H-1-benzopyran-4-one | 4.81 g | BrC1(COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)Br | C16H13Br2NO5S
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-bromo-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.30 g, yield: 82% | BrC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H12BrNO5S
